US07087597B1
ethyl 2-methylthio-4-hydroxypyrimidine-5-carboxylate
To a 4N sodium hydroxide solution (200 mL) was added S-methylisothioureasulfate (55.6 g, 0.2 mol), and after stirring for 30 min, at room temperature a solution of diethyl ethoxymethylenemalonate (80.8 mL, 0.35 mol) in ethanol (100 mL) was dropwise added slowly over 1 h. After stirring for 18 h, the precipitated crystals were collected by filtration, washed several times with cold ethanol and the obtained crystals were added to 1N hydrochloric acid (300 mL). The mixture was stirred for 30 min and the precipitated crystals were collected by filtration, washed several times with cold water and dried with heating under vacuum to give the title compound (26 g, 61%) as crystals.

reactant | sodium hydroxide | 4N, 200 mL | [OH-].[Na+]
reactant | S-methylisothioureasulfate | 0.2 mol, 55.6 g | CSC(=N)N.OS(=O)(=O)O
reactant | diethyl ethoxymethylenemalonate | 0.35 mol, 80.8 mL | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | ethyl 2-methylthio-4-hydroxypyrimidine-5-carboxylate | 26 g, 61% | CSC1=NC=C(C(=N1)O)C(=O)OCC | C8H10N2O3S
